US06054470
To a stirred solution of 1-(4-methoxybenzyl)-5-iodo-4-methyl-3-nitro-2-pyridone (1.00 g, 2.5 mmol) in acetic acid (12 mL), cooled on ice, was added a solution of stannous chloride dihydrate (2.85 g, 12.6 mmol) in concentrated HCl (8 mL). After 1 hour the mixture was filtered, and the filtrate was neutralized with solid sodium carbonate (adding water as necessary). The mixture was extracted with methylene chloride, and the organic phase was washed, dried, and evaporated to give 3-amino-1-(4-methoxybenzyl)-5-iodo-4-methyl-2-pyridone (0.265 g, 29%) as an oil.

reactant | 1-(4-methoxybenzyl)-5-iodo-4-methyl-3-nitro-2-pyridone | 2.5 mmol, 1.00 g | COC1=CC=C(CN2C(C(=C(C(=C2)I)C)[N+](=O)[O-])=O)C=C1 | C14H13IN2O4
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 8 mL | Cl | ClH
product | 3-amino-1-(4-methoxybenzyl)-5-iodo-4-methyl-2-pyridone | 0.265 g, 29% | NC=1C(N(C=C(C1C)I)CC1=CC=C(C=C1)OC)=O | C14H15IN2O2
